simulator lang=spectre
global 0
parameters ibias={{ibias}} nA={{nA}} nB0={{nB0}} nB10={{nB10}} nB11={{nB11}} nB12={{nB12}} nB13={{nB13}} nB14={{nB14}} nB15={{nB15}} nB16={{nB16}} nB17={{nB17}} nB18={{nB18}} nB19={{nB19}} nB1={{nB1}} nB2={{nB2}} nB3={{nB3}} nB4={{nB4}} nB5={{nB5}} nB6={{nB6}} nB7={{nB7}} nB8={{nB8}} nB9={{nB9}} nC1={{nC1}} tempc={{tempc}} vcm={{vcm}} vdd={{vdd}} 
include "/homes/natelgrw/Documents/TURBO_circuit_optimizer/lstp/7nfet.pm"
include "/homes/natelgrw/Documents/TURBO_circuit_optimizer/lstp/7pfet.pm"

subckt  complementary_op_amp22 ibias in1 in2 out gnd! vdd!

MM1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nfet l=nA nfin=nB0
MM2 outInputVoltageBiasXXnXX2 outInputVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nfet l=nA nfin=nB1
MM3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 gnd! gnd! nfet l=nA nfin=nB2
MM4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 gnd! gnd! nfet l=nA nfin=nB2
MM5 ibias ibias VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pfet l=nA nfin=nB3
MM6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 vdd! vdd! pfet l=nA nfin=nB4
MM7 FirstStageYinnerTransistorStack1LoadPmos FirstStageYinnerTransistorStack1LoadPmos vdd! vdd! pfet l=nA nfin=nB4
MM8 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1LoadPmos FirstStageYinnerTransistorStack1LoadPmos pfet l=nA nfin=nB5
MM9 out outInputVoltageBiasXXnXX2 FirstStageYinnerTransistorStack2LoadNmos FirstStageYinnerTransistorStack2LoadNmos nfet l=nA nfin=nB6
MM10 FirstStageYinnerTransistorStack1LoadNmos outSourceVoltageBiasXXnXX2 gnd! gnd! nfet l=nA nfin=nB7
MM11 FirstStageYinnerTransistorStack1LoadPmos in1 FirstStageYsourceTransconductanceNmos FirstStageYsourceTransconductanceNmos nfet l=nA nfin=nB8
MM12 FirstStageYinnerTransistorStack2LoadNmos outSourceVoltageBiasXXnXX2 gnd! gnd! nfet l=nA nfin=nB9
MM13 FirstStageYinnerTransistorStack2LoadPmos in2 FirstStageYsourceTransconductanceNmos FirstStageYsourceTransconductanceNmos nfet l=nA nfin=nB10
MM14 FirstStageYout1 outInputVoltageBiasXXnXX2 FirstStageYinnerTransistorStack1LoadNmos FirstStageYinnerTransistorStack1LoadNmos nfet l=nA nfin=nB11
MM15 FirstStageYsourceTransconductanceNmos outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nfet l=nA nfin=nB12
MM16 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 gnd! gnd! nfet l=nA nfin=nB13
MM17 out FirstStageYout1 FirstStageYinnerTransistorStack2LoadPmos FirstStageYinnerTransistorStack2LoadPmos pfet l=nA nfin=nB14
MM18 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 vdd! vdd! pfet l=nA nfin=nB15
MM19 outInputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 vdd! vdd! pfet l=nA nfin=nB15
MM20 FirstStageYinnerTransistorStack1LoadNmos in1 FirstStageYsourceTransconductancePmos FirstStageYsourceTransconductancePmos pfet l=nA nfin=nB16
MM21 FirstStageYinnerTransistorStack2LoadNmos in2 FirstStageYsourceTransconductancePmos FirstStageYsourceTransconductancePmos pfet l=nA nfin=nB16
MM22 FirstStageYinnerTransistorStack2LoadPmos FirstStageYinnerTransistorStack1LoadPmos vdd! vdd! pfet l=nA nfin=nB17
MM23 FirstStageYsourceTransconductancePmos ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pfet l=nA nfin=nB18
MM24 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 vdd! vdd! pfet l=nA nfin=nB19
C1 out gnd! capacitor c=nC1
ends complementary_op_amp22


VS (gnd! 0) vsource dc=0 type=dc
V0 (vdd! gnd!) vsource dc=vdd type=dc
V2 (in gnd!) vsource type=dc mag=1
E1 (Vinp cm in gnd!) vcvs gain=.5
E0 (Vinn cm in gnd!) vcvs gain=-0.5
V1 (cm gnd!) vsource dc=vcm type=dc
I0 (ibias gnd!) isource dc=ibias type=dc

xi0 ibias in1 in2 out gnd! vdd! complementary_op_amp22

simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=tempc tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf
    ac ac start=1 stop=100G dec=10 annotate=status
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
